US07438893B2
C. 3-(Biotinamido)butyric Acid
Preparation was accomplished as described by Wilbur [Bioconj. Chem 1997, 8, 572]. To a 0.13 g (1.3 mmol) quantity of 3-aminobutyric acid dissolved in 20 mL of DMF under argon atmosphere was added 0.4 mL (2.5 mmol) of triethylamine followed by 0.5 g (1.3 mmol) of biotin tetrafluorophenyl ester. The reaction was stirred at 25° C. for 24 h and the solvent was removed under vacuum. The residue was triturated with acetonitrile and filtered. The isolated solid was dried under vacuum to yield 0.5 g (98%) of product as a colorless solid, mp 161-163° C. 1H NMR (DMSO-d6): O 7.6 (m, 1H), 6.2 (d, J=11.2 Hz, 2H), 3.9-4.2 (m, 3H), 2.6 (m, 2H), 2.35 (d, J=12.6 Hz, 1H), 1.7-2.1 (m, 4H), 0.7-1.5 (m, 10H).

reactant | 3-aminobutyric acid | NC(CC(=O)O)C | C4H9NO2
reactant | triethylamine | 2.5 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | biotin tetrafluorophenyl ester | 1.3 mmol, 0.5 g | FC=1C(=C(C(=C(C1)OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)F)F)F | C16H16F4N2O3S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(Biotinamido)butyric Acid | 0.5 g, 98% | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NC(CC(=O)O)C | C14H23N3O4S
